datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[O:3])[O:4][C:5]([H:9])([H:10])[H:11])[H:8])([H:6])[H:7]>>[C:0]([C:1](=[C:2]=[O:3])[H:8])([H:6])([H:7])[H:9].[O:4]=[C:5]([H:10])[H:11],272.0
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4])[H:8])([H:5])([H:6])[H:7].[H:12][H:13]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4][H:13])[H:8])([H:5])([H:6])[H:7].[H:12],108.90952
[C:0](=[C:1]1[C:2]([H:8])([H:9])[C:3]([H:10])[C:4]([H:11])([H:12])[C:5]1([H:13])[H:14])([H:6])[H:7]>>[C:0](=[C:1]1[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])([H:12])[C:5]1([H:13])[H:14])([H:6])[H:7].[H:8],129.704
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10]([C:11](=[S:12])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:10]([C:11](=[S:12])[H:15])([H:13])[H:14],58.1576
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[C:16](=[C:17][C:18]([H:21])([H:22])[H:23])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:13])([H:14])[H:15])([H:12])[C:17](=[C:16]([H:19])[H:20])[C:18]([H:21])([H:22])[H:23])[H:8])([H:6])[H:7],-1.92464
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14](=[C:15]([C:16]([C:17](=[C:18]([H:24])[H:25])[H:23])[H:22])[H:21])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[C:16]([C:15](=[C:14]([H:19])[H:20])[H:21])([C:17](=[C:18]([H:24])[H:25])[H:23])[H:22])[H:6],77.1111
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])[H:9])[H:8])([H:6])[H:7].[C:14](=[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[H:21])[H:20])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])([H:9])[C:16]([C:15](=[C:14]([H:18])[H:19])[H:20])([C:17]([H:22])([H:23])[H:24])[H:21])[H:8])([H:6])[H:7],41.8818
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11](=[C:12][C:13](=[S:14])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:12](=[C:11]([H:15])[H:16])[C:13](=[S:14])[H:17],49.7896
[C:0]([N+:1](=[O:2])[O-:3])([H:4])([H:5])[H:6].[O:7][O:8]>>[C:0]([N+:1](=[O:2])[O-:3])([H:5])[H:6].[H:4][O:7][O:8],238.488
[C:0](=[C:1]([N:2]([H:6])[H:7])[H:5])([H:3])[H:4].[C:8]([H:9])([H:10])[H:11]>>[C:0](=[C:1][N:2]([H:6])[H:7])([H:3])[H:4].[H:5][C:8]([H:9])([H:10])[H:11],69.57992
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])=[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])([H:6])([H:7])[H:8].[C:18]([C:19]([c:20]1[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]1[H:34])[H:29])([H:26])([H:27])[H:28]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])[C:19]([C:18]([H:26])([H:27])[H:28])([c:20]1[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]1[H:34])[H:29])([H:6])([H:7])[H:8],44.3922
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[O:11][H:12]>>[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])[H:10])[H:7])[H:6])[H:5].[H:8][O:11][H:12],0.0
[C:0](=[C:1]([c:2]1[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:9])[H:8]>>[C:0](#[C:1][c:2]1[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:8].[H:9],160.042184
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[H:20])[H:19])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[C:15]([C:14](=[C:13]([H:17])[H:18])[H:19])([C:16]([H:21])([H:22])[H:23])[H:20])([H:5])[H:6],49.7478
[H:12].[O:0]=[C:1]([C:2]([C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:7])[H:8])[H:6]>>[H:6][H:12].[O:0]=[C:1][C:2]([C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:7])[H:8],13.719336
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10](=[C:11]([C:12](=[C:13]([H:18])[H:19])[H:17])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:16])[H:5].[C:10](=[C:11][C:12](=[C:13]([H:18])[H:19])[H:17])([H:14])[H:15],98.324
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13]([C:14]([C:15]([H:21])([H:22])[H:23])[C:16](=[S:17])[H:24])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:14]([C:13]([H:18])([H:19])[H:20])([C:15]([H:21])([H:22])[H:23])[C:16](=[S:17])[H:24],25.5224
[C:3]([C:4]([H:7])([H:8])[H:9])([H:5])[H:6].[S:0]=[C:1]=[S:2]>>[S:0][C:1](=[S:2])[C:3]([C:4]([H:7])([H:8])[H:9])([H:5])[H:6],38.1162
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:17])([H:4])([H:5])[H:6].[C:13](=[C:14]([H:18])[H:19])([H:15])[H:16],0.0
